* D:\TubeAmpPedal\TubeAmpPedal\Schematic Design\tonecontrol.asc
V1 N001 0 AC 1
C1 N002 N001 0.1µ
R1 N002 0 200k
R2 P001 N002 8k
R3 N003 N002 {Y}
C2 N003 P001 2.2n
C3 0 N003 2.2n
R4 N003 0 {1Meg-Y}
R5 N003 0 1Meg
.ac oct 1000  1 30k
.step PARAM Y 100k 910k 100k
.backanno
.end
